US06897231B2
N-[4-(5-(1H-1,2,4-TRIAZOL-3-YL)(1H-INDAZOL-3-YL))PHENYL]-2-METHOXYACETAMIDE
The title compound was prepared as described in Example 376, using 4-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine (0.302 g, 0.50 mmol) in tetrahydrofuran (4.5 mL) was added methoxyacetyl chloride (0.07 mL, 0.75 mmol) and triethylamine (0.35 mL, 2.52 mmol). The final crude product was purified by preparative HPLC (5-100% acetonitrile to H2O, 30 min.) (0.015 g, 9% yield): 1H NMR (CD3OD) δ 8.75 (d, 1H), 8.40 (s, 1H), 8.10 (dd, 1H), 8.02 (d, 2H), 7.83 (d, 2H), 7.68 (dd, 1H), 4,09 (s, 2H), 3.52 (s, 3H); ES-MS (m/z) 349 [M+1]+.

reactant | 4-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine | 0.50 mmol, 0.302 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)N | C39H34N6O
reactant | methoxyacetyl chloride | 0.75 mmol, 0.07 mL | COCC(=O)Cl | C3H5ClO2
reactant | triethylamine | 2.52 mmol, 0.35 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 4.5 mL | O1CCCC1 | C4H8O
product | N-[4-(5-(1H-1,2,4-TRIAZOL-3-YL)(1H-INDAZOL-3-YL))PHENYL]-2-METHOXYACETAMIDE | 9% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C1=CC=C(C=C1)NC(COC)=O | C18H16N6O2
